US04226872
Using the procedure of Example 11, α-ethyl(6-phenoxy-2-pyridyl)methanol is reacted with 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoic acid to yield α-ethyl(6-phenoxy-2-pyridyl)methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate, MS m/e 506 (M+).

reactant | α-ethyl(6-phenoxy-2-pyridyl)methanol | C(C)C(O)C1=NC(=CC=C1)OC1=CC=CC=C1 | C14H15NO2
reactant | 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoic acid | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)O)C(C)C | C12H13ClF3NO2
product | α-ethyl(6-phenoxy-2-pyridyl)methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)OC(C1=NC(=CC=C1)OC1=CC=CC=C1)CC)C(C)C | C26H26ClF3N2O3
